US05358942
Synthesis of N-2-Hydroxyethyl-N-2-hydroxyoctadecyl-N-methyl amine
To suspension of 2-Hydroxy-4-methyl-2-hexadecylmorpholine (5 g, 14.66 mmol) in methanol (150 mL) at 0° C. was added NaBH4 (1.1 g, 29 mmol over a period of 10 min. The reaction mixture was brought to room temperature slowly and stirred at room temperature for 12 hours. Additional NnBH4 (200 mg, 5.2 mmol) was added at room temperature and stirred for 2 hours at room temperature. Methanol was removed by rotavop and the residue was treated with water (100 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic phase was washed with water, brine and dried over Na2SO4. Evaporation of the solvent gave a product which was used without further purification in the next step. Yield 4.92g, 98%. NMR 1H (CDCl3, 200 MHz) 0.88 (3H, t, CH3), 1.26 (28H, s, CH2), 1.40 (2H, m, CH2), 2.32 (3H, s, N--CH3), 2.3-2.7 (4H, m, CH2), 3.66 (3H, m, CH2OH, CHOH). NMR 13C (CDCl3, 50 MHz) 67.6, 64.2, 59.7, 59.3, 42.5, 34.9, 31.9, 29.6, 29.3, 25.6, 22.6, 14.0. IR (KBr) cm-1 3436, 2918, 2850, 1469, 1087, 880, 722.

reactant | 2-Hydroxy-4-methyl-2-hexadecylmorpholine | 14.66 mmol, 5 g | OC1(CN(CCO1)C)CCCCCCCCCCCCCCCC | C21H43NO2
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | N-2-Hydroxyethyl-N-2-hydroxyoctadecyl-N-methyl amine | OCCN(C)CC(CCCCCCCCCCCCCCCC)O | C21H45NO2
